US05206375
350 parts of triethylamine are added dropwise to a mixture of 178 parts of chloroacetyl chloride, 104 parts of malonodinitrile and 900 parts of dimethylformamide, while cooling with ice. The solution is stirred for a further hour at room temperature, after which it is introduced into a mixture of 294.5 parts of a 40% strength aqueous ammonium sulfide solution, 1000 parts of ice and 1000 parts of water, and the reaction mixture is stirred for a further 3 hours at room temperature. The precipitate formed is filtered off under suction, washed with water and dried. 137 parts (62% of theory) of 2-amino-3-cyano-4-hydroxythiophene are obtained.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | malonodinitrile | C(C#N)C#N | C3H2N2
reactant | ammonium sulfide | [NH4+]=S
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-amino-3-cyano-4-hydroxythiophene | 62% | NC=1SC=C(C1C#N)O | C5H4N2OS
